US07414036B2
N2,N2-Dimethyl-5-(aminomethyl)-1,3-benzoxazol-2-amine
To a mixture of 2-(Dimethylamino)-1,3-benzoxazole-5-carbonitrile (1.5 g, 8.0 mmol) in 150 mL of dry ether, 640 mg (16.0 mmol) of LiAlH4 were slowly added. The mixture was stirred at room temperature for 1.5 h and the excess of reagent was decomposed by careful addition of the minimum amount of water and filtered. The solids were washed with hot EtOAc (3×100 mL) giving a residue after evaporation. The purification by column chromatography yield 622 mg (41%) of the title compound as a white solid. Rf (CH2Cl2/MeOH 9:1+0.25% NH3) 0.2; 1H NMR (CD3OD) δ 7.23 (s, 1H, H-4), 7.15 (d, 1H, J=8.1 Hz, H-7), 6.89 (d, 1H, J=8.1 Hz, H-6), 3.83 (s, 2H, CH2), 3.14 (s, 6H, CH3×2); 13C NMR (CD3OD) δ 163.7 (C-2), 148.4 (C-7a), 144.2 (C-3a), 139.8 (C-5), 119.6 (C-6), 114.9 (C-4), 108.7 (C-7), 47.1 (CH2), 38.0 (CH3); mass spectrum (ES+): m/e 192.0 (M++1).

reactant | 2-(Dimethylamino)-1,3-benzoxazole-5-carbonitrile | 8.0 mmol, 1.5 g | CN(C=1OC2=C(N1)C=C(C=C2)C#N)C | C10H9N3O
reactant | LiAlH4 | 16.0 mmol, 640 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | water | O | H2O
solvent | ether | 150 mL | CCOCC | C4H10O
product | N2,N2-Dimethyl-5-(aminomethyl)-1,3-benzoxazol-2-amine | CN(C=1OC2=C(N1)C=C(C=C2)CN)C | C10H13N3O
